US06011159
To a solution of 6bromo-1-cyclohexyl-3-ethyl-1H-indazole (12.7 g, 41.3 mmol) in toluene (64 mL) was added tetrahydrofuran (6.70 mL, 82.6 mmol). The solution was cooled to -78° C. and n-butyllithium (17.3 mL of a 2.5M solution in hexanes, 43.4 mmol) was added dropwise. The solution was stirred 10 minutes and added to a solution of 4-oxo-cyclohexanecarboxylic acid ethyl ester (8.80 g, 51.7 mmol) in toluene (127 mL) at -78° C. The reaction mixture was stirred for 15 minutes and poured into 1N aqueous hydrochloric acid (200 mL). The layers were separated and the aqueous layer was reextracted with toluene (60 mL). The organic extracts were combined and dried over magnesium sulfate, filtered, and concentrated to an oil which was purified by filtration through a pad of silica gel eluting with 4:1 hexanes/ethyl acetate. The product-rich fractions were concentrated to yield 4-(1-cyclohexyl-3-ethyl-1H-indazol-6-yl)-4-hydroxy-cyclohexanecarboxylic acid ethyl ester (13.5 g, 82%) as a mixture of diastereoisomers. Upon standing, one of the diastereoisomers crystallized and was isolated by trituration with hexanes. 1H NMR (400 MHz, CDCl3) δ 1.25-1.40 (m, 4), 1.27 (t, 3, J=7.1), 1.35 (t, 3, J=7.7), 1.65-2.07 (m, 15), 2.37-2.44 (m, 1), 2.96 (q, 2, J=7.7), 4.15 (q, 2, J=7.1), 4.30-4.38 (m, 1), 7.13 (d, 1, J=8.5), 7.58 (s, 1), 7.63 (d, 1, J=8.5). 13C NMR (100 MHz, CDCl3) δ 14.16, 14.26, 20.69, 24.60, 25.39, 25.91, 32.54, 38.22, 42.57, 57.59, 60.34, 72.80, 104.49, 116.80, 120.28, 121.26, 139.84, 146.09, 146.93, 175.63. Analysis calculated for C24H34N2O3 : C, 72.33; H, 8.60; N, 7.03. Found: C, 72.11; H, 8.55; N, 6.92.

reactant | 6bromo-1-cyclohexyl-3-ethyl-1H-indazole | 41.3 mmol, 12.7 g | BrC1=CC=C2C(=NN(C2=C1)C1CCCCC1)CC | C15H19BrN2
reactant | tetrahydrofuran | 82.6 mmol, 6.70 mL | O1CCCC1 | C4H8O
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-oxo-cyclohexanecarboxylic acid ethyl ester | 51.7 mmol, 8.80 g | C(C)OC(=O)C1CCC(CC1)=O | C9H14O3
reactant | hydrochloric acid | 1N, 200 mL | Cl | ClH
solvent | toluene | 64 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 127 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(1-cyclohexyl-3-ethyl-1H-indazol-6-yl)-4-hydroxy-cyclohexanecarboxylic acid ethyl ester | 13.5 g, 82% | C(C)OC(=O)C1CCC(CC1)(O)C1=CC=C2C(=NN(C2=C1)C1CCCCC1)CC | C24H34N2O3
